US07863449B2
(R)-tetrahydrofuran-3-yl 3-(2,3-dihydro-1H-spiro[isoquinoline-4,4-piperidine]-1′-yl)-8-azabicyclo[3.2.1]octane-8-carboxylate (20 mg, 0.047 mmol) was dissolved in CH2Cl2 (1 mL) and treated with a solution of dimethylcarbamic chloride (20 mg, 0.13 mmol) in CH2Cl2 (100 μL). A solution of diisopropyl ethylamine (20 μL, 14.8 mg, 0.11 mmol) was added. The resulting mixture was allowed to stand at room temperature for 10 min and was then purified by LC/MS (10-99% CH3CN—H2O, with 0.03% TFA, 9 min) to provide (R)-tetrahydrofuran-3-yl 3-(2-(dimethylcarbamoyl)-2,3-dihydro-1H-spiro[isoquinoline-4,4′-piperidine]-1′-yl)-8-azabicyclo[3.2.1]octane-8-carboxylate. LC/MS m/z [M+H]+ 497.4, retention time 2.15 min (10-99% CH3CN—H2O gradient, with 0.05% TFA, 5 min).

reactant | (R)-tetrahydrofuran-3-yl 3-(2,3-dihydro-1H-spiro[isoquinoline-4,4-piperidine]-1′-yl)-8-azabicyclo[3.2.1]octane-8-carboxylate | 0.047 mmol, 20 mg | N1(CCC2(CC1)CNCC1=CC=CC=C12)C1CC2CCC(C1)N2C(=O)O[C@H]2COCC2 | C25H35N3O3
reactant | dimethylcarbamic chloride | 0.13 mmol, 20 mg | CN(C(=O)Cl)C | C3H6ClNO
reactant | diisopropyl ethylamine | 0.11 mmol, 20 μL, 14.8 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 μL | C(Cl)Cl | CH2Cl2
product | (R)-tetrahydrofuran-3-yl 3-(2-(dimethylcarbamoyl)-2,3-dihydro-1H-spiro[isoquinoline-4,4′-piperidine]-1′-yl)-8-azabicyclo[3.2.1]octane-8-carboxylate | CN(C(=O)N1CC2=CC=CC=C2C2(CCN(CC2)C2CC3CCC(C2)N3C(=O)O[C@H]3COCC3)C1)C | C28H40N4O4
